US06777418B2
0.981 g (42.7 mmol) of sodium was dissolved in 50 mL of ethanol. To this solution was added 4.94 g (55.5 mmol) of 2-nitropropane followed by 17.3 g (42.7 mmol) of crude 2-bromo-3-bromomethyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene in 75 mL ethanol. After 8 hours, this mixture was concentrated in vacuo and then partitioned between ethyl acetate and water. The organic layer was sequentially washed with 1M aqueous sodium hydroxide, water, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The product was purified by flash chromatography on silica gel with gradient elution (1-2% ethyl acetate/hexane) to afford 7.63 g (61%) of 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde (m.p.=113.9-114.3° C.).

reactant | sodium | 42.7 mmol, 0.981 g | [Na] | Na
reactant | 2-nitropropane | 55.5 mmol, 4.94 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 2-bromo-3-bromomethyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 42.7 mmol, 17.3 g | BrC1=CC=2C(CCC(C2C=C1CBr)(C)C)(C)C | C15H20Br2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 7.63 g, 61% | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C15H19BrO
